US04628115
To 5.6 g of (4-acetyl-3-hydroxy-2-propylphenoxy)acetic acid ethyl ester in 50 ml of methanol was added 50 ml of 1.0N sodium hydroxide and the solution was stirred at reflux for 2 hours. The methanol was removed in vacuo, the residue was acidified and the product was extracted with ether. The dried (over magnesium sulfate) extract was concentrated in vacuo to a solid which was recrystallized from ether-hexane to give 4.18 g of (4-acetyl-3-hydroxy-2-propylphenoxy)acetic acid, the titled compound, mp 128°-130°, (83% yield).

reactant | (4-acetyl-3-hydroxy-2-propylphenoxy)acetic acid ethyl ester | 5.6 g | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C15H20O5
reactant | sodium hydroxide | 1.0N, 50 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | (4-acetyl-3-hydroxy-2-propylphenoxy)acetic acid | 4.18 g | C(C)(=O)C1=C(C(=C(OCC(=O)O)C=C1)CCC)O | C13H16O5
